US07060827B2
In like manner to the preparation of 2-chloro-5-fluoro-N4-[3-(1H-tetrazol-5-yl)phenyl]-4-pyrimidineamine the reaction of 2,4-dichloro-5-fluoropyrimidine with 3,4-dichloroaniline gave 2-chloro-N4-(3,4-dichlorophenyl)-5-fluoro-4-pyrimidineamine. LCMS: purity: 95%; MS (m/e): 294 (M+2H).

reactant | 2,4-dichloro-5-fluoropyrimidine | ClC1=NC=C(C(=N1)Cl)F | C4HCl2FN2
reactant | 3,4-dichloroaniline | ClC=1C=C(N)C=CC1Cl | C6H5Cl2N
product | 2-chloro-N4-(3,4-dichlorophenyl)-5-fluoro-4-pyrimidineamine | ClC1=NC=C(C(=N1)NC1=CC(=C(C=C1)Cl)Cl)F | C10H5Cl3FN3
